### PR TITLE
[Merged by Bors] - chore: review porting notes in `Topology/`

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Topology/Bornology/Constructions.lean [hunk 1]
```diff
@@ -144,8 +144,7 @@ instance [∀ i, BoundedSpace (π i)] : BoundedSpace (∀ i, π i) := by
 
 theorem boundedSpace_induced_iff {α β : Type*} [Bornology β] {f : α → β} :
     @BoundedSpace α (Bornology.induced f) ↔ IsBounded (range f) := by
-  rw [← @isBounded_univ _ (Bornology.induced f), isBounded_induced, image_univ]
--- Porting note: had to explicitly provided the bornology to `isBounded_univ`.
+  rw [← @isBounded_univ, isBounded_induced, image_univ]
```
Comment (grunweg) [inline Mathlib/Topology/Bornology/Constructions.lean:147]: Remove the @?

**Review by grunweg — COMMENTED** [review]
I spot-checked 25 of the files: only one comment (but a lot of notes I don't feel qualified to comment on).

File: Mathlib/Topology/Bornology/Constructions.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Topology/Bornology/Constructions.lean:147]: Can't.

File: Mathlib/Topology/Algebra/Module/WeakBilin.lean [hunk 2]
```diff
@@ -66,7 +66,6 @@ def WeakBilin [CommSemiring 𝕜] [AddCommMonoid E] [Module 𝕜 E] [AddCommMono
 
 namespace WeakBilin
 
--- Porting note: the next two instances should be derived from the definition
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Module/WeakBilin.lean:69]: Shouldn't we keep these notes, as incentive to build `derive` handlers?

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 3]
```diff
@@ -80,7 +80,6 @@ variable [CommSemiring 𝕜] [TopologicalSpace 𝕜] [ContinuousAdd 𝕜]
 variable [ContinuousConstSMul 𝕜 𝕜]
 variable [AddCommMonoid E] [Module 𝕜 E] [TopologicalSpace E]
 
--- Porting note: the next four instances should be derived from the definition
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:83]: Shouldn't we keep these notes, as incentive to build `derive` handlers?

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 4]
```diff
@@ -176,7 +175,6 @@ variable [AddCommMonoid E] [Module 𝕜 E] [TopologicalSpace E]
 
 namespace WeakSpace
 
--- Porting note: the next four instances should be derived from the definition
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:179]: Shouldn't we keep these notes, as incentive to build `derive` handlers?

File: Mathlib/Topology/Constructions.lean [hunk 5]
```diff
@@ -679,7 +676,6 @@ theorem prod_eq_generateFrom :
       (forall_mem_image.2 fun t ht =>
         GenerateOpen.basic _ ⟨univ, t, by simpa [Set.prod_eq] using ht⟩))
 
--- Porting note (https://github.com/leanprover-community/mathlib4/issues/11215): TODO: align with `mem_nhds_prod_iff'`
```
Comment (jcommelin) [inline Mathlib/Topology/Constructions.lean:682]: This TODO still applies, right?

File: Mathlib/Topology/DiscreteQuotient.lean [hunk 6]
```diff
@@ -284,6 +284,7 @@ theorem map_id : map _ (leComap_id A) = id := by ext ⟨⟩; rfl
 
 -- Porting note (https://github.com/leanprover-community/mathlib4/issues/11215): TODO: figure out why `simpNF` says this is a bad `@[simp]` lemma
 -- See https://github.com/leanprover-community/batteries/issues/365
+
```
Comment (jcommelin) [inline Mathlib/Topology/DiscreteQuotient.lean:287]:
```suggestion
```

File: Mathlib/Topology/Order.lean [hunk 7]
```diff
@@ -595,7 +595,6 @@ theorem nhds_sInf {s : Set (TopologicalSpace α)} {a : α} :
     @nhds α (sInf s) a = ⨅ t ∈ s, @nhds α t a :=
   (gc_nhds a).u_sInf
 
--- Porting note (https://github.com/leanprover-community/mathlib4/issues/11215): TODO: timeouts without `b₁ := t₁`
```
Comment (jcommelin) [inline Mathlib/Topology/Order.lean:598]: I guess this one is still relevant?

File: Mathlib/Topology/Order/Compact.lean [hunk 8]
```diff
@@ -88,9 +88,6 @@ instance (priority := 100) ConditionallyCompleteLinearOrder.toCompactIccSpace (
   have ha : a ∈ s := by simp [s, hpt, hab]
   rcases hab.eq_or_lt with (rfl | _hlt)
   · exact ha.2
-  -- Porting note: the `obtain` below was instead
-  -- `set c := Sup s`
-  -- `have hsc : IsLUB s c := isLUB_csSup ⟨a, ha⟩ sbd`
```
Comment (jcommelin) [inline Mathlib/Topology/Order/Compact.lean:93]: Hmm, I think we should try to understand why this fails.

File: Mathlib/Topology/Sheaves/CommRingCat.lean [hunk 9]
```diff
@@ -157,7 +157,6 @@ noncomputable def totalQuotientPresheaf : X.Presheaf CommRingCat.{w} :=
 noncomputable def toTotalQuotientPresheaf : F ⟶ F.totalQuotientPresheaf :=
   SubmonoidPresheaf.toLocalizationPresheaf _
 
--- Porting note: deriving `Epi` failed
```
Comment (jcommelin) [inline Mathlib/Topology/Sheaves/CommRingCat.lean:160]: I would prefer to preserve this, as incentive to develop a deriving handler.

File: Mathlib/Topology/Sheaves/Sheaf.lean [hunk 10]
```diff
@@ -104,7 +104,6 @@ satisfying the sheaf condition.
 nonrec def Sheaf : Type max u v w :=
   Sheaf (Opens.grothendieckTopology X) C
 
--- Porting note: `deriving Cat` failed
```
Comment (jcommelin) [inline Mathlib/Topology/Sheaves/Sheaf.lean:107]: I would prefer to preserve this, as incentive to develop a deriving handler.

File: Mathlib/Topology/Sheaves/Sheaf.lean [hunk 11]
```diff
@@ -127,11 +126,9 @@ namespace Sheaf
 def forget : TopCat.Sheaf C X ⥤ TopCat.Presheaf C X :=
   sheafToPresheaf _ _
 
--- Porting note: `deriving Full` failed
```
Comment (jcommelin) [inline Mathlib/Topology/Sheaves/Sheaf.lean:130]: I would prefer to preserve this, as incentive to develop a deriving handler.

File: Mathlib/Topology/Sheaves/Sheaf.lean [hunk 12]
```diff
@@ -127,11 +126,9 @@ namespace Sheaf
...
 instance forget_full : (forget C X).Full where
   map_surjective f := ⟨Sheaf.Hom.mk f, rfl⟩
 
--- Porting note: `deriving Faithful` failed
```
Comment (jcommelin) [inline Mathlib/Topology/Sheaves/Sheaf.lean:134]: I would prefer to preserve this, as incentive to develop a deriving handler.

File: Mathlib/Topology/Sheaves/SheafCondition/OpensLeCover.lean [hunk 13]
```diff
@@ -51,7 +51,6 @@ namespace SheafCondition
 def OpensLeCover : Type w :=
   FullSubcategory fun V : Opens X => ∃ i, V ≤ U i
 
--- Porting note: failed to derive `category`
```
Comment (jcommelin) [inline Mathlib/Topology/Sheaves/SheafCondition/OpensLeCover.lean:54]: I would prefer to preserve this, as incentive to develop a deriving handler.

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean [hunk 14]
```diff
@@ -475,7 +475,6 @@ def precomp [IsTopologicalAddGroup G] [ContinuousConstSMul 𝕜₃ G] [RingHomSu
     letI : UniformSpace G := IsTopologicalAddGroup.toUniformSpace G
     haveI : UniformAddGroup G := uniformAddGroup_of_addCommGroup
     rw [(UniformConvergenceCLM.isEmbedding_coeFn _ _ _).continuous_iff]
-    -- Porting note: without this, the following doesn't work
     change Continuous ((fun f ↦ UniformOnFun.ofFun _ (f ∘ L)) ∘ DFunLike.coe)
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Module/StrongTopology.lean:478]: The `change` is still needed.
```suggestion
    -- Porting note: without this, the following doesn't work
    change Continuous ((fun f ↦ UniformOnFun.ofFun _ (f ∘ L)) ∘ DFunLike.coe)
```
Otoh, it works if we change the `exact` to `apply`...

File: Mathlib/Topology/Gluing.lean [hunk 15]
```diff
@@ -166,10 +166,6 @@ theorem eqvGen_of_π_eq
           (colimit.isoColimitCocone (Types.coequalizerColimit _ _)).hom)
         this :
       _)
-  -- Porting note: was
-  -- simp only [eqToHom_refl, types_comp_apply, colimit.ι_map_assoc,
-  --   diagramIsoParallelPair_hom_app, colimit.isoColimitCocone_ι_hom, types_id_apply] at this
-  -- See https://github.com/leanprover-community/mathlib4/issues/5026
```
Comment (jcommelin) [inline Mathlib/Topology/Gluing.lean:172]: For these proofs, I think `simp` > `rw`. So this still seems like a regression to me.

File: Mathlib/Topology/Homotopy/Path.lean [hunk 16]
```diff
@@ -289,9 +289,8 @@ def Quotient.mapFn (P₀ : Path.Homotopic.Quotient x₀ x₁) (f : C(X, Y)) :
 theorem map_lift (P₀ : Path x₀ x₁) (f : C(X, Y)) : ⟦P₀.map f.continuous⟧ = Quotient.mapFn ⟦P₀⟧ f :=
   rfl
 
--- Porting note: Type was originally `HEq ⟦p₁⟧ ⟦p₂⟧`
 theorem hpath_hext {p₁ : Path x₀ x₁} {p₂ : Path x₂ x₃} (hp : ∀ t, p₁ t = p₂ t) :
-    @HEq (Path.Homotopic.Quotient _ _) ⟦p₁⟧ (Path.Homotopic.Quotient _ _) ⟦p₂⟧ := by
+    HEq (α := Path.Homotopic.Quotient _ _) ⟦p₁⟧ (β := Path.Homotopic.Quotient _ _) ⟦p₂⟧ := by
```
Comment (jcommelin) [inline Mathlib/Topology/Homotopy/Path.lean:293]: Do we still need the explicit alpha and beta args? Then this is still a regression.

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 17]
```diff
@@ -397,7 +397,6 @@ theorem lipschitz_infDist_set (x : α) : LipschitzWith 1 fun s : NonemptyCompact
     exact infDist_le_infDist_add_hausdorffDist (edist_ne_top t s)
 
 theorem lipschitz_infDist : LipschitzWith 2 fun p : α × NonemptyCompacts α => infDist p.1 p.2 := by
-  -- Porting note: Changed tactic from `exact` to `convert`, because Lean had trouble with 2 = 1 + 1
```
Comment (jcommelin) [inline Mathlib/Topology/MetricSpace/Closeds.lean:400]: Should we be satisfied with exact not working here?
Or should this morally be a `simpa using` proof?
`convert` is a bit of a crowbar.

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Gluing.lean (hunk 15 above)
Comment (kim-em) [reply Mathlib/Topology/Gluing.lean:172]: Restored.

File: Mathlib/Topology/MetricSpace/Closeds.lean (hunk 17 above)
Comment (kim-em) [reply Mathlib/Topology/MetricSpace/Closeds.lean:400]: `simpa using` it timing out here.

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
bors merge
